US06720338B2
4-bromo-1-chloro-2-(trifluoromethoxy)benzene
A mixture of tert-butyl nitrite (1.78 mL, 15.0 mmol), copper (II) chloride (1.61 g, 12.0 mmol) and 4-bromo-2-(trifluoromethoxy)aniline (2.56 g, 10.0 mmol) in acetonitrile (40 mL) was heated to 70° C., stirred for 3 hours, cooled to room temperature, poured into 0.5M HCl, and extracted with diethyl ether. The combined extracts were washed with water and brine, dried (MgSO4), filtered, and concentrated to provide the desired product. MS (ESI(+)) m/e 275 (M+H)+.

reactant | tert-butyl nitrite | 15.0 mmol, 1.78 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | 4-bromo-2-(trifluoromethoxy)aniline | 10.0 mmol, 2.56 g | BrC1=CC(=C(N)C=C1)OC(F)(F)F | C7H5BrF3NO
reactant | HCl | 0.5M | Cl | ClH
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
catalyst | copper (II) chloride | 12.0 mmol, 1.61 g | [Cu](Cl)Cl
product | 4-bromo-1-chloro-2-(trifluoromethoxy)benzene | BrC1=CC(=C(C=C1)Cl)OC(F)(F)F | C7H3BrClF3O
